US05202319
N-Methyl-N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-1H-3-benzazepin-3-yl] trifluoroacetamide
Potassium-t-butoxide (1.4 g) was added as a powder to an ice-cooled solution of N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-1H-3-benzazepin-3-yl]-trifluoroacet amide (4 g) in 100 mL tetrahydrofuran. After thirty minutes, dimethyl sulfate (1.5 g) was added. After warming to ambient temperature, the reaction mixture was stirred with water and extracted with ethyl acetate. The dried (anhydrous magnesium sulfate) organic layer was filtered and concentrated to 4.1 g solid, mp 210°-212°. A 2.5 g portion was recrystallized from acetonitrile to yield 1.6 g white crystals, mp 216°-218°.

reactant | Potassium-t-butoxide | 1.4 g | CC(C)([O-])C.[K+]
reactant | N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-1H-3-benzazepin-3-yl]-trifluoroacet amide | 4 g | FC(C1=CC=C(OC2CN(CCC3=C2C=CC=C3)NC(C(F)(F)F)=O)C=C1)(F)F | C19H16F6N2O2
reactant | dimethyl sulfate | 1.5 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-Methyl-N-[2,3,4,5-tetrahydro-1-(4-trifluoromethylphenoxy)-1H-3-benzazepin-3-yl] trifluoroacetamide | 1.6 g | CN(C(C(F)(F)F)=O)N1CCC2=C(C(C1)OC1=CC=C(C=C1)C(F)(F)F)C=CC=C2 | C20H18F6N2O2
